US04931463
A solution of 10 mg of N-formyl-L-leucine 1-[(trans-3-hexyl-4-oxo-2-oxetanyl)methyl]-4-pentenyl ester in 0.5 ml of THF was treated with 2.5 mg of 5% Pd/C and hydrogenated. After the hydrogen uptake was finished the catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was chromatographed over silica gel with toluene/ethyl acetate (8:2) and there was obtained amorphous N-formyl-L-leucine 1-[(trans-3-hexyl-4-oxo-2-oxetanyl]-methyl]pentyl ester as a mixture of 2 diastereomers.

reactant | N-formyl-L-leucine 1-[(trans-3-hexyl-4-oxo-2-oxetanyl)methyl]-4-pentenyl ester | 10 mg | C(CCCCC)[C@H]1[C@@H](OC1=O)CC(CCC=C)OC([C@@H](NC=O)CC(C)C)=O | C22H37NO5
reactant | hydrogen | [H][H] | H2
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 2.5 mg | [Pd] | Pd
product | N-formyl-L-leucine 1-[(trans-3-hexyl-4-oxo-2-oxetanyl]-methyl]pentyl ester | C(CCCCC)[C@H]1[C@@H](OC1=O)CC(CCCC)OC([C@@H](NC=O)CC(C)C)=O | C22H39NO5
